* 输出负载
Xinv_size_8_0  SUM0  out0  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_1  SUM1  out1  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_2  SUM2  out2  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_3  SUM3  out3  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_4  SUM4  out4  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_5  SUM5  out5  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_6  SUM6  out6  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_7  SUM7  out7  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_8  SUM8  out8  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_9  SUM9  out9  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_10 SUM10 out10 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_11 SUM11 out11 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_12 SUM12 out12 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_13 SUM13 out13 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_14 SUM14 out14 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_15 SUM15 out15 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_16 SUM16 out16 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_17 SUM17 out17 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_18 SUM18 out18 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_19 SUM19 out19 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_20 SUM20 out20 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_21 SUM21 out21 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_22 SUM22 out22 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_23 SUM23 out23 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_24 SUM24 out24 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_25 SUM25 out25 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_26 SUM26 out26 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_27 SUM27 out27 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_28 SUM28 out28 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_29 SUM29 out29 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_30 SUM30 out30 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_31 SUM31 out31 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_32 SUM32 out32 VDD_LOAD VSS_COM inv_size_8