* 输出负载
Xinv_size_8_0  SUM[0]  out0  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_1  SUM[1]  out1  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_2  SUM[2]  out2  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_3  SUM[3]  out3  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_4  SUM[4]  out4  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_5  SUM[5]  out5  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_6  SUM[6]  out6  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_7  SUM[7]  out7  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_8  SUM[8]  out8  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_9  SUM[9]  out9  VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_10 SUM[10] out10 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_11 SUM[11] out11 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_12 SUM[12] out12 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_13 SUM[13] out13 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_14 SUM[14] out14 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_15 SUM[15] out15 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_16 SUM[16] out16 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_17 SUM[17] out17 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_18 SUM[18] out18 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_19 SUM[19] out19 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_20 SUM[20] out20 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_21 SUM[21] out21 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_22 SUM[22] out22 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_23 SUM[23] out23 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_24 SUM[24] out24 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_25 SUM[25] out25 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_26 SUM[26] out26 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_27 SUM[27] out27 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_28 SUM[28] out28 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_29 SUM[29] out29 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_30 SUM[30] out30 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_31 SUM[31] out31 VDD_LOAD VSS_COM inv_size_8
Xinv_size_8_32 SUM[32] out32 VDD_LOAD VSS_COM inv_size_8